US06790844B2
Trans-4-(tributylstannylphenyl)cyclohexyl acetate(0.56 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (0.46 g) -were heated under reflux in the presence of tetrakistriphenylphosphinepalladium(0) (0.06 g) in xylene in nitrogen atmosphere overnight. After cooling, the reaction solution was diluted with ethyl acetate and filtered. The filtrate was extracted with 2N hydrochloric acid, and the resulting aqueous layer was washed with ethyl acetate. Then, it was adjusted to pH 10 by a 8N aqueous solution of sodium hydroxide, extracted with ethyl acetate, washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, to give a mixture (0.44 g) of 1-(4-ethylpiperazin-1-yl)-3-[4-(trans-4-acetoxycyclohexyl)phenyl]isoquinoline as a brown viscous oil and the starting material.

reactant | Trans-4-(tributylstannylphenyl)cyclohexyl acetate | 0.56 g | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 0.46 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(trans-4-acetoxycyclohexyl)phenyl]isoquinoline | 0.44 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OC(C)=O | C29H35N3O2
